US04762927
Dissolved in 80 ml of methanol was 12 g of 2-n-butyl-3-(3,4-methylenedioxyphenyl)acrylaldehyde, into which hydrogen chloride qas was blown under ice-salt cooling. Upon confirmation of full consumption of the raw material by thin-layer chromatography (eluent: a 5:1 mixture of n-hexane and ether), the bubbling of hydrogen chloride gas was stopped. Water was added to the reaction mixture, followed by extraction of the resultant mixture with ether. After the resultant ether solution was washed with water, a saturated aqueous solution of sodium hydrogencarbonate and water successively, the ether solution was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: a 10:1 mixture of n-hexane and ether) to give 11.4 g of 2-n-butyl-3-methoxy-5,6-methylenedioxyindene as an oily substance (yield: 90%).

reactant | 2-n-butyl-3-(3,4-methylenedioxyphenyl)acrylaldehyde | 12 g | C(CCC)C(C=O)=CC1=CC2=C(C=C1)OCO2 | C14H16O3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 80 ml | CO | CH4O
product | 2-n-butyl-3-methoxy-5,6-methylenedioxyindene | 11.4 g, yield: 90% | C(CCC)C=1CC2=CC3=C(C=C2C1OC)OCO3 | C15H18O3
